US09328106B2
To a solution of 1-methyl-4-nitro-pyrazole (9.7 g, 76.7 mmol) and pent-4-enal (10.0 g, 84.4 mmol) in THF (250 mL) at −78° C. was added dropwise a solution of LiHMDS in THF (1 M, 192 mL, 191.7 mmol). The reaction mixture was allowed to warm to −40° C. and stirred for 4 hr. The reaction was quenched with a saturated solution of ammonium chloride (100 mL), warmed to room temperature and the solvents removed under reduced pressure. The residue was dissolved in EtOAc (100 mL) and washed with water (30 mL). The organic layer was separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-30% EtOAc/isohexane) gave a clear oil. This oil (7.1 g, 33.6 mmol), diallyl carbonate (14.33 g, 100.9 mmol) and triphenylphosphine (880 mg, 3.35 mmol) were dissolved in dioxane (236 mL) under nitrogen before tris(dibenzylideneacetone)-dipalladium(0) (780 mg, 0.84 mmol) was added. The reaction mixture was heated at 50° C. for 1 hr and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-40% EtOAc/isohexane) gave 5-(1-allyloxypent-4-enyl)-1-methyl-4-nitro-pyrazole as a yellow oil (8.35 g, 43% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.06 (s, 1H), 5.90-5.73 (m, 2H), 5.46 (dd, J=8.8, 5.1 Hz, 1H), 5.29-5.16 (m, 2H), 5.10-5.00 (m, 2H), 4.04 (s, 3H), 3.92 (d, J=5.8 Hz, 2H), 2.37-2.25 (m, 1H), 2.22-2.09 (m, 1H), 2.09-1.96 (m, 1H), 1.84 (dddd, J=13.7, 9.2, 6.9, 5.1 Hz, 1H).

reactant | 1-methyl-4-nitro-pyrazole | 76.7 mmol, 9.7 g | CN1N=CC(=C1)[N+](=O)[O-] | C4H5N3O2
reactant | pent-4-enal | 84.4 mmol, 10.0 g | C(CCC=C)=O | C5H8O
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | diallyl carbonate | 100.9 mmol, 14.33 g | C(OCC=C)(OCC=C)=O | C7H10O3
reactant | triphenylphosphine | 3.35 mmol, 880 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | dioxane | 236 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.84 mmol, 780 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 191.7 mmol, 1 M, 192 mL | C1CCOC1 | C4H8O
product | 5-(1-allyloxypent-4-enyl)-1-methyl-4-nitro-pyrazole | C(C=C)OC(CCC=C)C1=C(C=NN1C)[N+](=O)[O-] | C12H17N3O3
